US06977267B2
A solution of di-tert-butyldicarbonate (1.04 g, 4.6 mmol) in MeCN (1 ml) was added to a suspension of 3-(3,5-dichlorophenyl)-2-thioxoimidazolidin-4-one (1.04 g, 4 mmol) (Preparation 8) and DMAP (73 mg, 0.6 mmol) in MeCN (5 ml). After 2 h at RT, the mixture was evaporated, taken into EtOAc, washed twice with aqueous KHSO4 and once with water, and finally concentrated to yield 3-(3,5-dichlorophenyl)-4-oxo-2-thioxoimidazolidine-1-carboxylic acid tert-butyl ester (1.04 g) as a brown solid. 1H NMR (CDCl3): 7.46 (1H, m), 7.18 (2H, m), 4.54 (2H, s), 1.57 (9H, s).

reactant | di-tert-butyldicarbonate | 4.6 mmol, 1.04 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(3,5-dichlorophenyl)-2-thioxoimidazolidin-4-one | 4 mmol, 1.04 g | ClC=1C=C(C=C(C1)Cl)N1C(NCC1=O)=S | C9H6Cl2N2OS
solvent | MeCN | 1 ml | CC#N | C2H3N
catalyst | DMAP | 0.6 mmol, 73 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 5 ml | CC#N | C2H3N
product | 3-(3,5-dichlorophenyl)-4-oxo-2-thioxoimidazolidine-1-carboxylic acid tert-butyl ester | 1.04 g | C(C)(C)(C)OC(=O)N1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=S | C14H14Cl2N2O3S
